US04001237
4-Amino-6,7-dimethyoxy-2-[4-(isoxazole-5-carbonyl)-piperazine-1-yl]quinazoline Hydrochloride
A solution of isoxazole-5-carbonyl chloride (1.33 g., 0.01 mole) in dioxane was added to a solution at 30° C. of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (2.94 g., 0.01 mole) in dioxane. The mixture was stirred at reflux for three minutes, then at room temperature for 16 hours. Filtration gave the title compound (4.02 g., 94% yield). Recrystallization from aqueous methanol gave a product having a m.p. of 270° C. with decomposition.

reactant | isoxazole-5-carbonyl chloride | 0.01 mole, 1.33 g | O1N=CC=C1C(=O)Cl | C4H2ClNO2
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 0.01 mole, 2.94 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Amino-6,7-dimethyoxy-2-[4-(isoxazole-5-carbonyl)-piperazine-1-yl]quinazoline Hydrochloride | 4.02 g, 94% yield | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1=CC=NO1 | InChI=1S/C18H20N6O4.ClH/c1-26-14-9-11-12(10-15(14)27-2)21-18(22-16(11)19)24-7-5-23(6-8-24)17(25)13-3-4-20-28-13;/h3-4,9-10H,5-8H2,1-2H3,(H2,19,21,22);1H
